US06486323B1
To a solution of methyl (1R,5S)-8-benzyl-3-oxo-8-azabicyclo[3.2.1]octane-2-carboxylate ((−)-2b) (818 mg, 2.99 mmol) in acetic acid (10 ml) was added 10% Pd-C (a catalyst), and the resulting mixture was stirred under a hydrogen atmosphere for 10 hours. After completion of the reaction, the mixture was filtered with Celite and the filtrate was concentrated in vacuo. The residue was adjusted to pH 8.0-8.5 with a saturated aqueous sodium hydrogen-carbonate solution and extracted with chloroform. The extract was dried over Na2SO4, filtered and then concentrated in vacuo, and the thus obtained crude product was purified by a silica gel column chromatography (CHCl3:MeOH=30:1) to obtain 536.5 mg of methyl (1R,5S)-3-oxo-8-azabicyclo[3.2.1]octane-2-carboxylate. In this case, the yield was 98 mol %. Then, to a methanol (20 ml) solution of this compound (281 mg, 1.54 mmol) were added a 37% formaldehyde solution (213 μl, 7.67 mmol), formic acid (579 μl, 15.4 mmol) and paraformaldehyde (200 mg), and the resulting mixture was refluxed for 17 hours. After completion of the reaction, the reaction mixture was adjusted to pH 8.0-8.5 with a saturated aqueous sodium hydrogencarbonate solution and extracted with chloroform. The extract was dried over Na2SO4, filtered and then concentrated in vacuo, and the thus obtained crude product was purified by a silica gel column chromatography (CHCl3:MeOH=50:1) to obtain 274 mg of methyl (1R,5S)-8-methyl-3-oxo-8-azabicyclo[3.2.1]octane-2-carboxylate. The yield from the above two steps was 88 mol %.

reactant | methyl (1R,5S)-8-benzyl-3-oxo-8-azabicyclo[3.2.1]octane-2-carboxylate | 2.99 mmol, 818 mg | C(C1=CC=CC=C1)N1[C@H]2C(C(C[C@@H]1CC2)=O)C(=O)OC | C16H19NO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Pd-C | [Pd] | Pd
product | methyl (1R,5S)-3-oxo-8-azabicyclo[3.2.1]octane-2-carboxylate | 536.5 mg | O=C1C([C@H]2CC[C@@H](C1)N2)C(=O)OC | C9H13NO3
